US06759417B2
5-Fluoro-2-nitrophenylamine (1.0 eq) and morpholine (3.0 eq) were dissolved in NMP and heated at 100° C. for 1 hour. The solution was cooled to room temperature and diluted with water. The resulting precipitate was filtered and dried under vacuum to yield 5-morpholin-4-yl-2-nitrophenylamine. The resulting solid was recrystallized from EtOH to afford pure product as a bright yellow solid. LC/MS m/z 224.1 (MH+), Rt 1.89 minutes.

reactant | 5-Fluoro-2-nitrophenylamine | 1.0 eq | FC=1C=CC(=C(C1)N)[N+](=O)[O-] | C6H5FN2O2
reactant | morpholine | 3.0 eq | N1CCOCC1 | C4H9NO
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 5-morpholin-4-yl-2-nitrophenylamine | N1(CCOCC1)C=1C=CC(=C(C1)N)[N+](=O)[O-] | C10H13N3O3
